US07300937B2
A mixture of 1.0 g (3.04 mmol) of 1-(2-cyanobenzoyl)piperazine trifluoroacetate, 0.5 g (3.35 mmol) of 2-chloro-4-methoxypyrimidine and 1.0 g (6.68 mmol) of potassium carbonate in 20 mL of DMF is heated to 100° C. for 1 hour. The solvent is eliminated at reduced pressure and water is added. The resulting solid is filtered, washed with water and purified by chromatography over silica gel, using as eluent ethyl acetate, yielding 0.51 g (1.58 mmol) of 2-[4-(2-cyanobenzoyl)-1-piperazinyl]-4-methoxypyrimidine.

reactant | 1-(2-cyanobenzoyl)piperazine trifluoroacetate | 3.04 mmol, 1.0 g | FC(C(=O)O)(F)F.C(#N)C1=C(C(=O)N2CCNCC2)C=CC=C1
reactant | 2-chloro-4-methoxypyrimidine | 3.35 mmol, 0.5 g | ClC1=NC=CC(=N1)OC | C5H5ClN2O
reactant | potassium carbonate | 6.68 mmol, 1.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-[4-(2-cyanobenzoyl)-1-piperazinyl]-4-methoxypyrimidine | 1.58 mmol, 0.51 g | C(#N)C1=C(C(=O)N2CCN(CC2)C2=NC=CC(=N2)OC)C=CC=C1 | C17H17N5O2
